US07914632B2
I) (1H-Tetrazol-5-yl)-carbamic acid methyl ester
To a solution of 5-Amino tetrazole (10.00 g, 117.56 mmol)/Triethyl amine (16.48 ml, 118.739 mmol) in acetonitrile was added Methyl chloroformate (9.1375 ml, 118.739 mmol) at 0° C. The reaction mixture was slowly brought to room temperature and stirred for about 30 minutes. After about 30 minutes the reaction warmed and was refluxed for about 2 hrs. The reaction was then cooled to room temperature and the solvent was removed under reduced pressure, leaving a residue. The residue was washed with dilyte HCl to yield a white-colored solid. The solid was then dried at 105 C for about 6 hrs, resulting in a 92% yield.

reactant | 5-Amino tetrazole | 117.56 mmol, 10.00 g | NC1=NN=NN1 | CH3N5
reactant | Triethyl amine | 118.739 mmol, 16.48 ml | C(C)N(CC)CC | C6H15N
reactant | Methyl chloroformate | 118.739 mmol, 9.1375 ml | ClC(=O)OC | C2H3ClO2
solvent | acetonitrile | C(C)#N | C2H3N
product | (1H-Tetrazol-5-yl)-carbamic acid methyl ester | COC(NC1=NN=NN1)=O | C3H5N5O2
